US20010027196A1
To a stirred suspension of 500 mg (2.31 mmol) 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile in 10 ml DME were added 482 mg (3.46 mmol) 2-mercapto-ethylpyridine and 0.88 ml (5.77 mmol) DBU and stirring continued for 1 hour at room temperature. 50 ml water was then added and the resulting crystals collected by filtration and washed with ethyl acetate to afford 300 mg (33%) 2-amino-4,6-bis-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 395 (M+H+, 100).

reactant | 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile | 2.31 mmol, 500 mg | NC1=NC(=C(C(=N1)Cl)C#N)S(=O)C | C6H5ClN4OS
reactant | 2-mercapto-ethylpyridine | 3.46 mmol, 482 mg | SCCC1=NC=CC=C1 | C7H9NS
reactant | DBU | 5.77 mmol, 0.88 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | 50 ml | O | H2O
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 2-amino-4,6-bis-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile | 300 mg, 33% | NC1=NC(=C(C(=N1)SCCC1=NC=CC=C1)C#N)SCCC1=NC=CC=C1 | C19H18N6S2
